US07030409B2
Synthesis of 2,5-bis(trimethylstannyl)thiophene
After 18.4 mL (30 mmol) of n-butyl lithium solution (n-BuLi, 1.63M in hexane) was added to a solution of 3.0 g (12.4 mmol) dibromothiophene in tetrahydrofuran (50 mL) at −50° C. under nitrogen atmosphere, the reaction was allowed to proceed for 30 minutes. To the mixture was added 5 g of trimethylstannyl chloride (SnMe3Cl, 25 mmol) and the reaction was continued at −50° C. for about 4˜5 hours. Next, the aqueous layer and organic layer were separated. The obtained organic layer was dried over a drying agent, and then solvents were removed. The resulting crude product was recrystallized from ether twice to afford 3.1 g (yield: 60%) of the title compound as a white crystal.

reactant | n-butyl lithium | 30 mmol, 1.63M, 18.4 mL | C(CCC)[Li]
reactant | dibromothiophene | 12.4 mmol, 3.0 g | BrC1=C(SC=C1)Br | C4H2Br2S
reactant | trimethylstannyl chloride | 25 mmol, 5 g | C[Sn](C)(C)Cl
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2,5-bis(trimethylstannyl)thiophene | 3.1 g, yield: 60% | C[Sn](C=1SC(=CC1)[Sn](C)(C)C)(C)C | InChI=1S/C4H2S.6CH3.2Sn/c1-2-4-5-3-1;;;;;;;;/h1-2H;6*1H3;;
